US04044049
A mixture of 9.0 grams of 4-fluoro-2-methyl-aniline, 200 ml. of anisole, and 9.0 grams of iso-amyl-nitrate, is warmed on a steam bath until a vigorous reaction with evolution of gas sets in. This evolution is allowed to proceed without heating until it has subsided, and the mixture is then heated on the steam bath for an additional 3 hours. The excess anisole is removed in vacuo, and the residue is chromatographed on a silica gel column using petroleum-benzin as eluent to yield 4-(2'-methyl-4'-fluorophenyl)-anisole.

reactant | 4-fluoro-2-methyl-aniline | 9.0 grams | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | iso-amyl-nitrate | 9.0 grams | C(CC(C)C)O[N+](=O)[O-] | C5H11NO3
product | 4-(2'-methyl-4'-fluorophenyl)-anisole | CC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OC | C14H13FO
